### PR TITLE
refactor: Split Vector and CoVector

### PR DESCRIPTION
**Pull request by jstoobysmith**
This is an updated version of #1050. 

There are no new results. 

This PR splits Vector.Basic into Vector.Basic (for the basic module structure) and Vector.Tensorial (for the tensorial nature). It does the same with CoVector.Basic. 

Other files have had their imports modified to account for this change.

### CODE REVIEW

**Comment by jstoobysmith** [comment]
This is also part of #1048

File: Physlib/QuantumMechanics/DDimensions/Operators/Commutation.lean [hunk 1]
```diff
@@ -6,6 +6,7 @@ Authors: Gregory J. Loges
 module
 
 public import Physlib.Mathematics.KroneckerDelta
+public import Physlib.Relativity.Tensors.RealTensor.Vector.Tensorial
```
Comment (kastch) [inline Physlib/QuantumMechanics/DDimensions/Operators/Commutation.lean:9]: This file seems to need the Lie API for continuous linear maps, not anything specific to Lorentz vectors, unless I'm missing the idea. I mean pulling Relativity part into QM looks like unnecessary dependency. At least locally, replacing this with

import Mathlib.Algebra.Lie.OfAssociative

was enough for lake build Physlib.QuantumMechanics.DDimensions.Operators.Commutation to pass

File: Physlib/Relativity/Tensors/RealTensor/CoVector/Tensorial.lean [hunk 2]
```diff
@@ -0,0 +1,238 @@
...
+lemma smul_zero {d : ℕ} (Λ : LorentzGroup d) :
+    Λ • (0 : CoVector d) = 0 := by
+  rw [smul_eq_mulVec, Matrix.mulVec_zero]
+
+set_option backward.isDefEq.respectTransparency false in
+lemma smul_neg {d : ℕ} (Λ : LorentzGroup d) (p : CoVector d) :
+    Λ • (-p) = - (Λ • p) := by
+  rw [smul_eq_mulVec, smul_eq_mulVec, Matrix.mulVec_neg]
+
+/-- The Lorentz action on vectors as a continuous linear map. -/
```
Comment (kastch) [inline Physlib/Relativity/Tensors/RealTensor/CoVector/Tensorial.lean:205]: Potential misprint - I guess it should be a Co vector here, not a vector?

Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/RealTensor/CoVector/Tensorial.lean:205]: Fixed - thanks.

**Review by morrison-daniel — APPROVED** [review]
Would you close the old PR as well?
